US07727985B2
Crude 2-benzoyl-6-chloro-1,2,3,9-tetrahydro-β-carbolin-4-one (4 g) was dissolved in 30 ml of anhydrous hydrazine and stirred at reflux (130° C. oil bath) under N2 for 6 hours, after which the reaction mixture was allowed to cool to room temperature and sit overnight. The precipitated yellow solids were removed by filtration and washed with water, 2×5 ml, to yield 785 mg (30%) of 4-amino-6-chloro β-carboline as an off white solid. Additional water was added to the combined filtrates until no further precipitation occurred. These solids were also removed by filtration to give 1.056 g (39%) of 4-amino-6-chloro β-carboline as yellow solids, (69% total yield).

reactant | 2-benzoyl-6-chloro-1,2,3,9-tetrahydro-β-carbolin-4-one | 4 g | C(C1=CC=CC=C1)(=O)N1CC=2NC3=CC=C(C=C3C2C(C1)=O)Cl | C18H13ClN2O2
reactant | hydrazine | 30 ml | NN | H4N2
product | 4-amino-6-chloro β-carboline | 785 mg, 30% | NC1=CN=CC=2NC3=CC=C(C=C3C12)Cl | C11H8ClN3
